US06680321B1
Compound I: 4-(α-hydroxybenzyl)-nitrobenzene
4-nitrobenzoin (4.55 g, 20.1 mmol) was dissolved in 70 ml of anhydrous methanol cooled down to 0° C. in an ice bath, NaBH4 (0.915 g, 24.2 mmol) was then added under N2, the mixture was stirred at r.t., for overnight, quenched with NH4Cl sat'd aqueous solution, MeOH was evaporated and EtOAc was added, the mixture was washed with water, the organic layer was dried over MgSO4 and concentrated to give a solid as the desired product(˜4.58 g, ˜100% yield).

reactant | 4-nitrobenzoin | 20.1 mmol, 4.55 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(O)C1=CC=CC=C1 | C14H11NO4
reactant | NaBH4 | 24.2 mmol, 0.915 g | [BH4-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 4-(α-hydroxybenzyl)-nitrobenzene | ˜4.58 g, ˜100% yield | OC(C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO3
